plaintext
* SPICE Netlist
VDD 3 0 DC 5V

Vin 4 0 AC 1V

R1 5 3 10k
RD 3 2 10k
R2 4 5 10k
RS 0 5 1k

Ci 4 5 1uF

M1 2 5 0 0 NMOS_MODEL

.model NMOS_MODEL NMOS (LEVEL=1 VTO=1 KP=30u)

.end